US04122265
9.5 G. of 5-chloro-3-phenylisoindole-1-carboxylic acid {3-[(benzyloxycarbonyl)methylamino]propyl}amide are dissolved in 20 ml. of glacial acetic acid and 30 ml. of a solution of 33% hydrobromic acid in glacial acetic acid are added thereto. The mixture is allowed to stand at room temperature for 2 hours with occasional agitation and it is thereafter poured into 300 ml. of diethyl ether. The separated hydrobromide is removed by filtration under suction, washed with diethyl ether and treated with 200 ml. of 2-N ammonium hydroxide solution. The liberated base is extracted with methylene chloride and the extract washed with water, dried over sodium sulfate and evaporated to dryness. After crystallization of the solid residue from ethanol, there is obtained 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(methylamino)propyl]amide in the form of yellowish crystals having a melting point of 162°-164° C.

reactant | 5-chloro-3-phenylisoindole-1-carboxylic acid {3-[(benzyloxycarbonyl)methylamino]propyl}amide | C(C1=CC=CC=C1)OC(=O)CNCCCNC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C27H26ClN3O3
reactant | hydrobromic acid | Br | BrH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-chloro-3-phenylisoindole-1-carboxylic acid [3-(methylamino)propyl]amide | CNCCCNC(=O)C=1NC(=C2C=C(C=CC12)Cl)C1=CC=CC=C1 | C19H20ClN3O
